US04730003
7,7-Dimethyl-2-cyclohexyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one
Analogously to Example 1, from 960 mg. (5.0 mmole) 5,6-diamino-3,3-dimethylindolin-2-one and 640 mg. (5.0 mmole) cyclohexanecarboxylic acid, after 1.5 hours at 240° C., there is obtained 1.37 g. of crude product. 300 mg. thereof are purified over a silica gel column (elution agent: dichloromethane/methanol 9:1 v/v). After removal of the solvent in a vacuum, there is obtained a greenish oil which is crystallised with diethyl ether. There are obtained 192 mg. (53% of theory) of the title compound in the form of pale brown crystals; m.p. 315°-318° C.

reactant | 5,6-diamino-3,3-dimethylindolin-2-one | 5.0 mmole | NC=1C=C2C(C(NC2=CC1N)=O)(C)C | C10H13N3O
reactant | cyclohexanecarboxylic acid | 5.0 mmole | C1(CCCCC1)C(=O)O | C7H12O2
product | 7,7-Dimethyl-2-cyclohexyl-6,7-dihydro-3H,5H-pyrrolo[2,3-f]benzimidazol-6-one | CC1(C(NC2=CC3=C(N=C(N3)C3CCCCC3)C=C21)=O)C | C17H21N3O
